US06653313B2
C. Methyl 3-oxo-5-(2-{[3-(tritylamino)propoxy]methyl}phenyl)pentanoate
To a suspension of NaH (448 mg/l 1.2 mmol) in THF (22 ml) was added a solution of methyl acetoacetate (1.30 g/11.2 mmol) in THF (4.5 ml) dropwise at 0° C. over 15 minutes. After 20 minutes at 0° C., n-butyl lithium (7,3 ml/11.2 mmol) was added dropwise at 0° C. over 15 minutes. After 20 minutes at 0° C., a solution of 3-{[2-(bromomethyl)benzyl]oxy}-N-trityl-1-propanamine in THF (6.6 ml) was added dropwise at 0° C., and the solution was stirred at 0° C. for 3 hours. The mixture was quenched with water, and the whole was extracted with ethyl acetate (100 ml×2). The combined organic layer was washed with brine (30 ml), dried over magnesium sulfate, filtered and concentrated. The residue was dissolved in diethylether (100 ml) and hexane (100 ml). The solution was washed with water (50 ml×5), brine, dried over magnesium sulfate, filtered and concentrated. The residue was purified by column chromatography (SiO2, 200-350 mesh/hexane:ethyl acetate=10:0-3:1) to afford a colorless oil (3.70 g/74%).

reactant | NaH | 1.2 mmol | [H-].[Na+]
reactant | methyl acetoacetate | 11.2 mmol, 1.30 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | n-butyl lithium | 11.2 mmol, 7,3 ml | C(CCC)[Li]
reactant | 3-{[2-(bromomethyl)benzyl]oxy}-N-trityl-1-propanamine | BrCC1=C(COCCCNC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1 | C30H30BrNO
solvent | THF | 22 ml | C1CCOC1 | C4H8O
solvent | THF | 4.5 ml | C1CCOC1 | C4H8O
solvent | THF | 6.6 ml | C1CCOC1 | C4H8O
product | Methyl 3-oxo-5-(2-{[3-(tritylamino)propoxy]methyl}phenyl)pentanoate | O=C(CC(=O)OC)CCC1=C(C=CC=C1)COCCCNC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C35H37NO4
